### PR TITLE
Closure properties of π-finite types

### PR DESCRIPTION
**Pull request by fredrik-bakke**
Here's that PR I talked about a while back.

### CODE REVIEW

File: src/foundation/addition-truncation-levels.lagda.md [hunk 1]
```diff
@@ -0,0 +1,195 @@
...
+We define the partial
+{{#concept "addition" Disambiguation="of truncation levels" Agda=add-𝕋 Agda=_+𝕋_}}
+binary operation on [truncation levels](foundation-core.truncation-levels.md).
+
+## Definitions
+
+### Addition of truncation levels
+
+```agda
+add-𝕋' : 𝕋 → 𝕋 → 𝕋
```
Comment (VojtechStep) [inline src/foundation/addition-truncation-levels.lagda.md]: It this a useful/meaningful definition? Outside of this file, there seem to be two uses:
- `is-trunc-map-precomp-Π-is-connected-map`, which uses the left unit and successor laws, but it also operates on `succ (succ n)`, so I'm suspicious if it's really the theorem
- `example-not-reflects-leq-left-add-𝕋`, which shows that this addition *doesn't* have a nice property

I checked what other libraries do. Cubical and 1lab both use 0-indexed h-levels (with addition corresponding to `add+2-𝕋`), and TypeTopology doesn't define addition on h-levels, only an operation `T -> N -> T`, which looks more sensible to me.

I'm not reviewing the rest of this file for now.

File: src/foundation/equality-truncation-levels.lagda.md [hunk 2]
```diff
@@ -0,0 +1,163 @@
...
+is-decidable-is-neg-one-𝕋' n = has-decidable-equality-𝕋 neg-one-𝕋 n
+```
+
+## The full characterization of identifications of truncation levels
+
+```agda
+map-total-Eq-𝕋 : (m : 𝕋) → Σ 𝕋 (Eq-𝕋 m) → Σ 𝕋 (Eq-𝕋 (succ-𝕋 m))
+map-total-Eq-𝕋 m (n , e) = (succ-𝕋 n , e)
+
+is-torsorial-Eq-𝕋 : (m : 𝕋) → is-torsorial (Eq-𝕋 m)
```
Comment (VojtechStep) [inline src/foundation/equality-truncation-levels.lagda.md]: `abstract`

File: src/foundation/equality-truncation-levels.lagda.md [hunk 3]
```diff
@@ -0,0 +1,163 @@
...
+pr1 (pr1 (is-torsorial-Eq-𝕋 m)) = m
+pr2 (pr1 (is-torsorial-Eq-𝕋 m)) = refl-Eq-𝕋 m
+pr2 (is-torsorial-Eq-𝕋 neg-two-𝕋) (neg-two-𝕋 , star) = refl
+pr2 (is-torsorial-Eq-𝕋 (succ-𝕋 m)) (succ-𝕋 n , e) =
+  ap (map-total-Eq-𝕋 m) (pr2 (is-torsorial-Eq-𝕋 m) (n , e))
+
+is-equiv-Eq-eq-𝕋 : {m n : 𝕋} → is-equiv (Eq-eq-𝕋 {m} {n})
```
Comment (VojtechStep) [inline src/foundation/equality-truncation-levels.lagda.md]: `abstract`

File: src/foundation/inequality-truncation-levels.lagda.md [hunk 4]
```diff
@@ -0,0 +1,287 @@
...
+open import order-theory.posets
+open import order-theory.preorders
+open import order-theory.total-orders
+```
+
+</details>
+
+## Idea
+
+The relation `≤` on [truncation levels](foundation-core.truncation-levels.md) is
```
Comment (VojtechStep) [inline src/foundation/inequality-truncation-levels.lagda.md]: This description reads pretty unnaturally to me, like it's just repeating the implementation rather than giving the "idea". Why not say that it mirrors the natural ordering on integers >= -2?

File: src/foundation/inequality-truncation-levels.lagda.md [hunk 5]
```diff
@@ -0,0 +1,287 @@
...
+```
+
+## Properties
+
+### Inequality of truncation levels is a proposition
+
+```agda
+is-prop-leq-𝕋 : (m n : 𝕋) → is-prop (leq-𝕋 m n)
+is-prop-leq-𝕋 neg-two-𝕋 neg-two-𝕋 = is-prop-unit
+is-prop-leq-𝕋 neg-two-𝕋 (succ-𝕋 n) = is-prop-unit
```
Comment (VojtechStep) [inline src/foundation/inequality-truncation-levels.lagda.md]: These two cases should not need to be split

File: src/foundation/maximum-truncation-levels.lagda.md [hunk 6]
```diff
@@ -0,0 +1,173 @@
+# Maximums of truncation levels
```
Comment (VojtechStep) [inline src/foundation/maximum-truncation-levels.lagda.md]: Plural "maximums"?

File: src/foundation/maximum-truncation-levels.lagda.md [hunk 7]
```diff
@@ -0,0 +1,173 @@
...
+left-successor-diagonal-law-max-𝕋 (succ-𝕋 x) =
+  ap succ-𝕋 (left-successor-diagonal-law-max-𝕋 x)
+
+right-successor-diagonal-law-max-𝕋 : (x : 𝕋) → x ⊔𝕋 succ-𝕋 x ＝ succ-𝕋 x
+right-successor-diagonal-law-max-𝕋 neg-two-𝕋 = refl
+right-successor-diagonal-law-max-𝕋 (succ-𝕋 x) =
+  ap succ-𝕋 (right-successor-diagonal-law-max-𝕋 x)
+```
+
+### If a type is `k`-truncated and `k ≤ r`, then it is `r`-truncated
```
Comment (VojtechStep) [inline src/foundation/maximum-truncation-levels.lagda.md]: That's not what's formalized

File: src/foundation/merely-truncated-types.lagda.md [hunk 8]
```diff
@@ -0,0 +1,356 @@
...
+
+open import logic.functoriality-existential-quantification
+```
+
+</details>
+
+## Idea
+
+A type $A$ is
+{{#concept "merely truncated" Disambiguation="type" Agda=is-merely-trunc Agda=Merely-Merely-Truncated-Type}}
```
Comment (VojtechStep) [inline src/foundation/merely-truncated-types.lagda.md]: `Merely-Merely-Truncated-Type` is not defined

File: src/univalent-combinatorics/pi-finite-types.lagda.md [hunk 9]
```diff
@@ -27,98 +53,231 @@ open import univalent-combinatorics.untruncated-pi-finite-types
...
-is-trunc-is-π-finite zero-ℕ = is-set-is-finite
-is-trunc-is-π-finite (succ-ℕ k) H x y =
-  is-trunc-is-π-finite k (pr2 H x y)
+is-π-finite-retract :
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} →
+  A retract-of B → is-π-finite B → is-π-finite A
+is-π-finite-retract R H =
+  ( is-merely-trunc-retract-of R (is-merely-trunc-is-π-finite H) ,
+    λ n →
+    is-untruncated-π-finite-retract n R (is-unbounded-π-finite-is-π-finite H n))
```
Comment (VojtechStep) [inline src/univalent-combinatorics/pi-finite-types.lagda.md]:
```suggestion
  ( ( is-merely-trunc-retract-of R (is-merely-trunc-is-π-finite H)) ,
    ( λ n →
      is-untruncated-π-finite-retract n R (is-unbounded-π-finite-is-π-finite H n)))
```
or coprojections

File: src/univalent-combinatorics/pi-finite-types.lagda.md [hunk 10]
```diff
@@ -27,98 +53,231 @@ open import univalent-combinatorics.untruncated-pi-finite-types
...
+        ( is-unbounded-π-finite-is-π-finite hB n)))
+
+coproduct-π-Finite-Type :
+  {l1 l2 : Level} →
+  π-Finite-Type l1 → π-Finite-Type l2 → π-Finite-Type (l1 ⊔ l2)
+coproduct-π-Finite-Type A B =
+  ( type-π-Finite-Type A + type-π-Finite-Type B) ,
+  ( is-π-finite-coproduct
+    ( is-π-finite-type-π-Finite-Type A)
+    ( is-π-finite-type-π-Finite-Type B))
```
Comment (VojtechStep) [inline src/univalent-combinatorics/pi-finite-types.lagda.md]:
```suggestion
  ( ( type-π-Finite-Type A + type-π-Finite-Type B) ,
    ( is-π-finite-coproduct
      ( is-π-finite-type-π-Finite-Type A)
      ( is-π-finite-type-π-Finite-Type B)))
```

File: src/univalent-combinatorics/pi-finite-types.lagda.md [hunk 11]
```diff
@@ -27,98 +53,231 @@ open import univalent-combinatorics.untruncated-pi-finite-types
...
+### `Maybe A` of any π-finite type `A` is π-finite
+
+```agda
+is-π-finite-Maybe :
+  {l : Level} {A : UU l} → is-π-finite A → is-π-finite (Maybe A)
+is-π-finite-Maybe H = is-π-finite-coproduct H (is-π-finite-unit)
+
+Maybe-π-Finite-Type :
+  {l : Level} → π-Finite-Type l → π-Finite-Type l
+Maybe-π-Finite-Type A = coproduct-π-Finite-Type A (unit-π-Finite-Type)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/pi-finite-types.lagda.md]: I'd prefer if this was defined as `(Maybe A, is-pi-finite-Maybe)`, since if for whatever reason the definition of `Maybe` changed (like from `X + 1` to `1 + X`), then this definition wouldn't need changing, but its underlying type wouldn't be Maybe anymore

File: src/univalent-combinatorics/pi-finite-types.lagda.md [hunk 12]
```diff
@@ -27,98 +53,231 @@ open import univalent-combinatorics.untruncated-pi-finite-types
...
 
 A type is
-{{#concept "πₙ-finite" Disambiguation="type" Agda=is-π-finite Agda=π-Finite-Type}}
-if it has [finitely](univalent-combinatorics.finite-types.md) many
-[connected components](foundation.connected-components.md), all of its homotopy
-groups up to level `n` at all base points are finite, and all higher homotopy
-groups are [trivial](group-theory.trivial-groups.md). A type is
-{{#concept "π-finite"}} if it is πₙ-finite for some `n`.
+{{#concept "π-finite" Disambiguation="type" Agda=is-π-finite Agda=π-Finite-Type}}
+if all of its [homotopy groups](synthetic-homotopy-theory.homotopy-groups.md)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/pi-finite-types.lagda.md]: Since the formalization is not strictly stated in terms of finiteness of the homotopy groups (if I'm reading it correctly it's formalized as finiteness of set truncations of path spaces), I'd appreciate a couple sentences on how they are related. Probably not here, but in untruncated pi-finite types, with a pointer from here

File: src/univalent-combinatorics/pi-finite-types.lagda.md [hunk 13]
```diff
@@ -27,98 +53,231 @@ open import univalent-combinatorics.untruncated-pi-finite-types
...
+are [finite](univalent-combinatorics.finite-types.md) and it is $n$-truncated
+for some $n$.
```
Comment (VojtechStep) [inline src/univalent-combinatorics/pi-finite-types.lagda.md]: Cite Anel24?

File: src/univalent-combinatorics/truncated-pi-finite-types.lagda.md [hunk 14]
```diff
@@ -0,0 +1,413 @@
...
+  {l : Level} (k : ℕ) {A : UU l} → is-prop (is-truncated-π-finite k A)
+is-prop-is-truncated-π-finite k {A} =
+  is-prop-type-Prop (is-truncated-π-finite-Prop k A)
+
+has-finitely-many-connected-components-is-truncated-π-finite :
+  {l : Level} (k : ℕ) {X : UU l} →
+  is-truncated-π-finite k X → has-finitely-many-connected-components X
+has-finitely-many-connected-components-is-truncated-π-finite zero-ℕ =
+  has-finitely-many-connected-components-is-finite
+has-finitely-many-connected-components-is-truncated-π-finite (succ-ℕ k) = pr1
```
Comment (VojtechStep) [inline src/univalent-combinatorics/truncated-pi-finite-types.lagda.md:88]: The second projection in the succ case is accessed multiple times, both in the truncated and untruncated versions. Can we come up with a name for it? Like `is-truncated-pi-finite-Id-is-truncated-pi-finite` or `is-truncated-pi-finite-Id`, to mirror `is-trunc-Id`?

File: src/univalent-combinatorics/truncated-pi-finite-types.lagda.md [hunk 15]
```diff
@@ -0,0 +1,413 @@
...
+
+```agda
+is-untruncated-π-finite-is-truncated-π-finite :
+  {l : Level} (k : ℕ) {A : UU l} →
+  is-truncated-π-finite k A → is-untruncated-π-finite k A
+is-untruncated-π-finite-is-truncated-π-finite zero-ℕ H =
+  is-finite-equiv
+    ( equiv-unit-trunc-Set (_ , (is-set-is-finite H)))
+    ( H)
+pr1 (is-untruncated-π-finite-is-truncated-π-finite (succ-ℕ k) H) = pr1 H
```
Comment (VojtechStep) [inline src/univalent-combinatorics/truncated-pi-finite-types.lagda.md]:
```suggestion
pr1 (is-untruncated-π-finite-is-truncated-π-finite (succ-ℕ k) H) =
   has-finitely-many-connected-components-is-truncated-π-finite (succ-ℕ k) H
```
would be more conceptual IMO, but I'll leave it up to you. Here and in the rest of the file

File: src/univalent-combinatorics/truncated-pi-finite-types.lagda.md [hunk 16]
```diff
@@ -0,0 +1,413 @@
...
+
+  is-truncated-π-finite-type-Truncated-π-Finite-Type :
+    is-truncated-π-finite k type-Truncated-π-Finite-Type
+  is-truncated-π-finite-type-Truncated-π-Finite-Type = pr2 A
+
+  is-trunc-type-Truncated-π-Finite-Type :
+    is-trunc (truncation-level-ℕ k) type-Truncated-π-Finite-Type
+  is-trunc-type-Truncated-π-Finite-Type =
+    is-trunc-is-truncated-π-finite k
+      is-truncated-π-finite-type-Truncated-π-Finite-Type
```
Comment (VojtechStep) [inline src/univalent-combinatorics/truncated-pi-finite-types.lagda.md]:
```suggestion
      ( is-truncated-π-finite-type-Truncated-π-Finite-Type)
```
here and elsewhere

File: src/univalent-combinatorics/truncated-pi-finite-types.lagda.md [hunk 17]
```diff
@@ -0,0 +1,413 @@
...
+### πₙ-finite types are closed under retracts
+
+```agda
+is-truncated-π-finite-retract :
+  {l1 l2 : Level} (k : ℕ) {A : UU l1} {B : UU l2} →
+  A retract-of B → is-truncated-π-finite k B → is-truncated-π-finite k A
+is-truncated-π-finite-retract zero-ℕ = is-finite-retract
+pr1 (is-truncated-π-finite-retract (succ-ℕ k) r H) =
+  has-finitely-many-connected-components-retract
+    ( r)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/truncated-pi-finite-types.lagda.md]:
```suggestion
  has-finitely-many-connected-components-retract r
```
just a suggestion, but it would be consistent with the rest of the file

File: src/univalent-combinatorics/truncated-pi-finite-types.lagda.md [hunk 18]
```diff
@@ -0,0 +1,413 @@
...
+  {l : Level} (k : ℕ) {A : UU l} →
+  is-truncated-π-finite k A → is-truncated-π-finite k (Maybe A)
+is-truncated-π-finite-Maybe k H =
+  is-truncated-π-finite-coproduct k H (is-truncated-π-finite-unit k)
+
+Maybe-Truncated-π-Finite-Type :
+  {l : Level} (k : ℕ) →
+  Truncated-π-Finite-Type l k → Truncated-π-Finite-Type l k
+Maybe-Truncated-π-Finite-Type k A =
+  coproduct-Truncated-π-Finite-Type k A (unit-Truncated-π-Finite-Type k)
```
Comment (VojtechStep) [inline src/univalent-combinatorics/truncated-pi-finite-types.lagda.md]: I'd also prefer this to be `(Maybe A, is-truncated-pi-finite-Maybe k)`

File: src/univalent-combinatorics/truncated-pi-finite-types.lagda.md [hunk 19]
```diff
@@ -0,0 +1,413 @@
...
+empty-Truncated-π-Finite-Type k = (empty , is-truncated-π-finite-empty k)
+
+is-truncated-π-finite-is-empty :
+  {l : Level} (k : ℕ) {A : UU l} → is-empty A → is-truncated-π-finite k A
+is-truncated-π-finite-is-empty zero-ℕ = is-finite-is-empty
+is-truncated-π-finite-is-empty (succ-ℕ k) f =
+  ( has-finitely-many-connected-components-is-empty f , ex-falso ∘ f)
+```
+
+### Contractible types are π-finite
```
Comment (VojtechStep) [inline src/univalent-combinatorics/truncated-pi-finite-types.lagda.md]: Most of the following headings have "π-finite" instead of "πₙ-finite"

File: src/univalent-combinatorics/unbounded-pi-finite-types.lagda.md [hunk 20]
```diff
@@ -343,35 +363,19 @@ is-finite-is-unbounded-π-finite H K =
...
 is-unbounded-π-finite-Id-is-unbounded-π-finite' :
   {l : Level} {A : UU l} →
-  ((k : ℕ) → is-untruncated-π-finite k A) →
+  (is-unbounded-π-finite' A) →
   (x y : A) →
-  (k : ℕ) → is-untruncated-π-finite k (x ＝ y)
+  is-unbounded-π-finite' (x ＝ y)
 is-unbounded-π-finite-Id-is-unbounded-π-finite' H x y k = pr2 (H (succ-ℕ k)) x y
 
 is-unbounded-π-finite-is-untruncated-π-finite :
```
Comment (VojtechStep) [inline src/univalent-combinatorics/unbounded-pi-finite-types.lagda.md]: The two definitions now refer to `is-unbounded-pi-finite'` instead of `is-untruncated-pi-finite`, is there a reason not to change the names?

File: src/univalent-combinatorics/unbounded-pi-finite-types.lagda.md [hunk 21]
```diff
@@ -394,6 +398,29 @@ pr2 (is-untruncated-π-finite-is-unbounded-π-finite H (succ-ℕ k)) x y =
     ( k)
 ```
 
+### π-finite types are unbounded π-finite
```
Comment (VojtechStep) [inline src/univalent-combinatorics/unbounded-pi-finite-types.lagda.md]:
```suggestion
### πₙ-finite types are unbounded π-finite
```

File: src/univalent-combinatorics/untruncated-pi-finite-types.lagda.md [hunk 22]
```diff
@@ -157,27 +135,40 @@ pr2 (is-untruncated-π-finite-retract (succ-ℕ k) r H) x y =
     ( pr2 H (inclusion-retract r x) (inclusion-retract r y))
 ```
 
+### Untruncated π-finite types are closed under equivalences
```
Comment (VojtechStep) [inline src/univalent-combinatorics/untruncated-pi-finite-types.lagda.md]:
```suggestion
### Untruncated πₙ-finite types are closed under equivalences
```
Here and in other headings in this file

File: src/univalent-combinatorics/untruncated-pi-finite-types.lagda.md [hunk 23]
```diff
@@ -376,16 +378,16 @@ pr2 (is-untruncated-π-finite-Π (succ-ℕ k) H K) f g =
...
   Untruncated-π-Finite-Type (l1 ⊔ l2) k
-pr1 (Untruncated-π-Finite-Type-Π k A B) =
+pr1 (finite-Π-Untruncated-π-Finite-Type k A B) =
   (x : type-Finite-Type A) → (type-Untruncated-π-Finite-Type k (B x))
-pr2 (Untruncated-π-Finite-Type-Π k A B) =
+pr2 (finite-Π-Untruncated-π-Finite-Type k A B) =
   is-untruncated-π-finite-Π k
     ( is-finite-type-Finite-Type A)
-    ( λ x → is-untruncated-π-finite-type-Untruncated-π-Finite-Type k (B x))
+      ( λ x → is-untruncated-π-finite-type-Untruncated-π-Finite-Type k (B x))
```
Comment (VojtechStep) [inline src/univalent-combinatorics/untruncated-pi-finite-types.lagda.md]:
```suggestion
    ( λ x → is-untruncated-π-finite-type-Untruncated-π-Finite-Type k (B x))
```

**Review by VojtechStep — COMMENTED** [review]
LGTM 👌

File: src/foundation/addition-truncation-levels.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/addition-truncation-levels.lagda.md]: I think you are right this is not a nice definition. I suppose I in some sense wrote these formalizations to demonstrate precisely this, although I don't understand why I didn't use `add+2-𝕋` for `is-trunc-map-precomp-Π-is-connected-map`. I've rewritten the relevant proof now. What do you propose we do with `add-𝕋`?

File: src/foundation/equality-truncation-levels.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/foundation/equality-truncation-levels.lagda.md]: This proof computes rather nicely, so I don't see why it needs to be `abstract`ed.

Comment (fredrik-bakke) [reply src/foundation/equality-truncation-levels.lagda.md]: For instance, neither `is-torsorial-Eq-ℕ` or `is-equiv-Eq-eq-ℕ` is `abstract`ed, although the latter is indirectly stuck since `fundamental-theorem-id` is `abstract`.

**Comment by fredrik-bakke** [comment]
I think I've addressed all of your comments now @VojtechStep

**Comment by fredrik-bakke** [comment]
Loving the reworked `link-check`!

File: src/foundation/equality-truncation-levels.lagda.md (hunk 2 above)
Comment (VojtechStep) [reply src/foundation/equality-truncation-levels.lagda.md]: I think we started marking torsoriality proofs and the derived is-equiv proofs abstract because the normal forms are less informative and more expensive to compute than the definition names when printing goals; and in general witnesses of contractibility were made abstract in favor of building APIs which accept an explicit point as an argument instead of computing the center, since apparently that had a performance benefit. I'm not sure if we want to reverse direction on this, so could we maybe compromise and make it opaque?

File: src/elementary-number-theory/equality-natural-numbers.lagda.md [hunk 24]
```diff
@@ -160,8 +160,8 @@ is-torsorial-Eq-ℕ :
   (m : ℕ) → is-torsorial (Eq-ℕ m)
 pr1 (pr1 (is-torsorial-Eq-ℕ m)) = m
 pr2 (pr1 (is-torsorial-Eq-ℕ m)) = refl-Eq-ℕ m
-pr2 (is-torsorial-Eq-ℕ zero-ℕ) (pair zero-ℕ star) = refl
-pr2 (is-torsorial-Eq-ℕ (succ-ℕ m)) (pair (succ-ℕ n) e) =
+pr2 (is-torsorial-Eq-ℕ zero-ℕ) (zero-ℕ , *) = refl
```
Comment (VojtechStep) [inline src/elementary-number-theory/equality-natural-numbers.lagda.md]: I seem to remember that at some point you went over the library and replaced matching on `star` with `_`, and using `*` (which is not the name of the constructor) for the introduced variable was considered a bug? Or am I dreaming that? I couldn't find in in the issue tracker

File: src/univalent-combinatorics/truncated-pi-finite-types.lagda.md [hunk 25]
```diff
@@ -80,6 +86,12 @@ has-finitely-many-connected-components-is-truncated-π-finite :
 has-finitely-many-connected-components-is-truncated-π-finite zero-ℕ =
   has-finitely-many-connected-components-is-finite
 has-finitely-many-connected-components-is-truncated-π-finite (succ-ℕ k) = pr1
+
+is-truncated-pi-finite-Id :
```
Comment (VojtechStep) [inline src/univalent-combinatorics/truncated-pi-finite-types.lagda.md]: I know I suggested this name, but I spelled out "pi" because I was on a phone 😬. Can we make it `is-truncated-π-finite-Id`? Sorry about that

File: src/foundation/addition-truncation-levels.lagda.md (hunk 1 above)
Comment (VojtechStep) [reply src/foundation/addition-truncation-levels.lagda.md]: I think the Idea section should at least state that while we represent truncation levels as integers >= -2, it's rarely useful to add them as integers, not least because we can't represent -3 and -4, and the more natural operation is offsetting by a natural number (though I'm not sure if we agree on that, maybe not, please let me know).
If we don't want to encourage usage of this definition, then I think it makes sense to *not* give it the nice name `_+𝕋_`.
If we *really* just want to show off that it's not a great definition, then I'd even consider making it private in this file

File: src/elementary-number-theory/equality-natural-numbers.lagda.md (hunk 24 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/equality-natural-numbers.lagda.md]: > I seem to remember that at some point you went over the library and replaced matching on `star` with `_`

That's correct, as it meant the constructions would compute better, and not rely on eta equality of the unit type.

> and using `*` (which is not the name of the constructor) for the introduced variable was considered a bug? Or am I dreaming that? I couldn't find in in the issue tracker

I think you're dreaming that. If it makes you sleep better I am open to just use `_`, the name is meant to not matter, so `_` might be more appropriate. I just tend to like `*` since it tells us why it doesn't matter.

File: src/univalent-combinatorics/truncated-pi-finite-types.lagda.md (hunk 25 above)
Comment (fredrik-bakke) [reply src/univalent-combinatorics/truncated-pi-finite-types.lagda.md]: Oh, I'm sorry, I should've caught that

File: src/elementary-number-theory/equality-natural-numbers.lagda.md (hunk 24 above)
Comment (VojtechStep) [reply src/elementary-number-theory/equality-natural-numbers.lagda.md]: If you could I'd be happier if we used `_` instead of `*`, because to me it looks too much like someone forgot that the name of the constructor of `unit` is the word `star`, not the symbol 😅. For example TypeTopology does that (and it matters, because they don't have eta)

File: src/foundation/equality-truncation-levels.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/foundation/equality-truncation-levels.lagda.md]: Sure, that's a fine compromise.

File: src/foundation/addition-truncation-levels.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/addition-truncation-levels.lagda.md]: I agree offsetting by a natural number is a more natural operation, I call it `iterated-succ-𝕋` in the formalization, and `add+2-𝕋 n m = iterated-succ-𝕋 (nat-succ-succ-𝕋 n) m`*.

> If we don't want to encourage usage of this definition, then I think it makes sense to not give it the nice name `_+𝕋_`.

This is a good point and thank you for the suggestion. I think this goes in the same vein as deliberately _not_ having the partial subtraction operation on natural numbers. I'd even go one step further and rename `add-𝕋` to something more derogatory, maybe `truncadd-𝕋` since it is a truncated addition operation? I don't think it is necessary to make it `private`, as long as we are clear about its intended use case. Moreover, some of its not-nice properties are formalized in a different file, `inequality-truncation-levels`.

Comment (fredrik-bakke) [reply src/foundation/addition-truncation-levels.lagda.md]: We might also want to put `truncadd-𝕋` in a different file, `truncated-addition-truncation-levels`. But then, the file is not really about addition of truncation levels anymore, that would perhaps more naturally be captured by the operation of type `𝕋 → 𝕋 → ℤ`. Instead, it is a file about iterating the successor function on 𝕋?

Comment (VojtechStep) [reply src/foundation/addition-truncation-levels.lagda.md]: "iterating the successor function" sounds needlessly obscure IMO, would "offsetting truncation levels by N" or "raising truncation levels" be okay?

Comment (fredrik-bakke) [reply src/foundation/addition-truncation-levels.lagda.md]: You might be right that "iterating the successor function" is obscure, and I like that "raising truncation levels" draws a comparison between truncation levels and universe levels. However, the closest analogy to raising universe levels would be something like an `is-trunc-max-𝕋` function, not arithmetic on truncation levels, so I'm not sure this is the best choice either.

Comment (VojtechStep) [reply src/foundation/addition-truncation-levels.lagda.md]: Do you plan on doing some of that in this PR? If not, then please make an issue, resolve this conversation, update the branch and it's good for merging ✨

Comment (fredrik-bakke) [reply src/foundation/addition-truncation-levels.lagda.md]: yes, sorry, I forgot to follow up

Comment (fredrik-bakke) [reply src/foundation/addition-truncation-levels.lagda.md]: so many PRs 😵‍💫

**Comment by fredrik-bakke** [comment]
For some reason the CI is not triggering 😩

**Comment by fredrik-bakke** [comment]
I've tested this PR locally now, after adding a small script that runs all the tests, and it passes all of them so I'll merge it even though no status is reported from GitHub actions. I also renamed "merely truncated" to "finitely truncated", since the latter is more descriptive. I assume that's uncontroversial. @VojtechStep

**Review by VojtechStep — APPROVED** [review]

**Comment by fredrik-bakke** [comment]
thanks for the approval! I'm just tweaking the vscode task a little more before merging
